US05519034
A mixture of phenylacetonitrile (47.4 g) and 1,3-diiodo-2,2-dimethylpropane (131.2 g) was added dropwise over 2 hours at 25° C. to a stirred solution of powdered potassium hydroxide (90.7 g) in dry dimethylsulphoxide (600 ml) under a nitrogen atmosphere. The mixture was stirred overnight then poured onto water and extracted with ether (1000 ml). The extracts were decolourised with charcoal, filtered and concentrated in vacuo to yield an orange-brown oil which was distilled under vacuum to give 2,2-dimethyl-1-phenylcyclobutane carbonitrile, (b.p. 101°-106° C./0.6mbar) as a pale yellow oil.

reactant | phenylacetonitrile | 47.4 g | C1(=CC=CC=C1)CC#N | C8H7N
reactant | 1,3-diiodo-2,2-dimethylpropane | 131.2 g | ICC(CI)(C)C | C5H10I2
reactant | potassium hydroxide | 90.7 g | [OH-].[K+]
reactant | dimethylsulphoxide | 600 ml | CS(=O)C | C2H6OS
product | 2,2-dimethyl-1-phenylcyclobutane carbonitrile | CC1(C(CC1)(C#N)C1=CC=CC=C1)C | C13H15N
